US05104890
A mixture of trans-4-[N-[1-(cyanoimino)ethyl]amino]-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile (0.53 g) and acetic anhydride (0.38 g) in dry pyridine (2.65 ml) was stirred at room temperature for 8 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate, washed with 5% hydrochloric acid, saturated aqueous sodium bicarbonate, and brine, successively. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was pulverized with diisopropyl ether and collected by filtration to give trans-3-acetoxy-4-[N-[1-(cyanoimino)-ethyl]amino]-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.55 g).

reactant | trans-4-[N-[1-(cyanoimino)ethyl]amino]-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile | 0.53 g | C(#N)N=C(C)N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C15H16N4O2
reactant | acetic anhydride | 0.38 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.65 ml | N1=CC=CC=C1 | C5H5N
product | trans-3-acetoxy-4-[N-[1-(cyanoimino)-ethyl]amino]-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.55 g | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1NC(C)=NC#N)C=C(C=C2)C#N)(C)C | C17H18N4O3
